US04968682
c. 1,2,3,4-tetrahydro-1-isopropyl-2,3-dioxo quinoxaline
A solution of 3,4-dihydro-4-isopropyl-2-hydroxy-3-oxo-quinoxaline-1-oxid (15.5 g, 0.07 mole) and triphenylphosphine (26.2 g, 0.1 mole) in dimethylformamide (DMF) (100 ml) was stirred at 120° C. for 12 hours, whereafter the solvent was evaporated in vacuo. The residue was stirred in methylene chloride (150 ml) whereby the formed triphenyl phosphine oxid was dissolved. The product was then collected as pale crystals by filtration followed by wash with methylene chloride. M.p. 227°-228° C.

reactant | 3,4-dihydro-4-isopropyl-2-hydroxy-3-oxo-quinoxaline-1-oxid | 0.07 mole, 15.5 g | C(C)(C)N1C(C(=[N+](C2=CC=CC=C12)[O-])O)=O | C11H12N2O3
reactant | triphenylphosphine | 0.1 mole, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4-tetrahydro-1-isopropyl-2,3-dioxo quinoxaline | C(C)(C)N1C(C(NC2=CC=CC=C12)=O)=O | C11H12N2O2
